US05922871
1-[N,N-Bis(2-methoxyethyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid (1.5 g) was dissolved in methylene chloride (45 ml) and then, triethylamine (0.7 ml) was added and cooled. Pivaloyl chloride (0.58 ml) was added slowly to the solution at 0~5° C. and the mixture was stirred at 5° C. for 2 hours. N,N-Diisopropylethylamine (0.8 ml) and bis(2-methoxyethyl)amine (0.6 g) were added in order, the solution was stirred at 0~5° C. for 2 hours and heated slowly to 20~25° C. and stirred for 30 minutes. The reaction mixture was washed with water twice and with aqueous 5% sodium bicarbonate. Then, the solvent was dried over anhydrous sodium sulfate and the solvent was concentrated under reduced pressure. The concentrated residue was crystallized by treatment with ether and further recrystallized using ethyl acetate and ether. The recrystallized product was filtered and dried to give 1.65 g (yield: 84%) of the desired compound. m.p.: 82~83° C.; 1H-NMR(CDCl3), ppm: δ 1.21(d, 6H), 3.08(m, 4H), 3.25(s, 3H), 3.36(m, 5H), 3.52(m, 5H), 3.64(m, 2H), 3.74(m, 2H), 3.90(m, 2H), 4.15(m, 1H), 6.82(m, 1H), 6.91(m, 1H), 7.44(m, 4H), 7.66(m, 1H)

reactant | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid | 1.5 g | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H24N4O3
reactant | Pivaloyl chloride | 0.58 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N,N-Diisopropylethylamine | 0.8 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bis(2-methoxyethyl)amine | 0.6 g | COCCNCCOC | C6H15NO2
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
product | 1-[N,N-Bis(2-methoxyethyl)carbamoyl]-4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzene | 1.65 g, yield: 84% | COCCN(C(=O)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)CCOC | C26H37N5O4
